US08119692B2
(S)-methyl 2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-6-hydroxyhexanoate (Intermediate E7)
(S)-methyl 6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hex-4-enoate (494 mg, 1.2 mmol) was dissolved into 5 mL EtOH and to it added 10% Pd/C (450 mg). The solution was saturated with H2 (stream of H2 bubbled through solution) and then stirred for 3 h at room temperature under one atmosphere of hydrogen (balloon). The mixture was filtered through a bed of Celite and rinsed with ethyl acetate. The solvent was removed under reduced pressure and the crude product used directly in the next step without further purification.

reactant | (S)-methyl 6-(benzyloxy)-2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)hex-4-enoate | 1.2 mmol, 494 mg | C(C1=CC=CC=C1)OCC=CC[C@H](C(=O)OC)C[C@@H](OC)C1=CC=C(C=C1)F | C23H27FO4
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 450 mg | [Pd] | Pd
solvent | EtOH | 5 mL | CCO | C2H6O
product | (S)-methyl 2-((R)-2-(4-fluorophenyl)-2-methoxyethyl)-6-hydroxyhexanoate | FC1=CC=C(C=C1)[C@@H](C[C@@H](C(=O)OC)CCCCO)OC | C16H23FO4
